US09023847B2
26. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(3-methoxyphenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.68 (1H, br. s.) 10.34 (1H, s) 8.19 (1H, t, J=5.61 Hz) 8.03 (1H, d, J=5.66 Hz) 7.79 (1H, d, J=5.37 Hz) 7.45 (1H, d, J=5.37 Hz) 7.34 (1H, d, J=3.32 Hz) 7.16 (1H, t, J=8.10 Hz) 6.72-6.82 (4H, m) 6.48 (1H, d, J=3.32 Hz) 3.71 (3H, s) 3.46 (2H, dt, J=8.00, 6.25 Hz) 2.79 (2H, t, J=7.27 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(3-methoxyphenyl)ethylamine | COC=1C=C(C=CC1)CCN | C9H13NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide | COC=1C=C(C=CC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H20N4O2S
